US06638944B2
N1-[2-(4-Amino-2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)ethyl]acetamide
Under a nitrogen atmosphere, acetyl chloride (50 μL, 0.7 mmole) in dichloromethane (25 mL) was added dropwise to a cooled (ice bath) solution of 2-(4-amino-2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)ethaneamine (0.2 g, 0.7 mmol) in dichloromethane (50 mL). After the addition was complete, the reaction mixture was allowed to warm to ambient temperature. After 30 minutes thin layer chromatography indicated that the reaction was complete. The reaction mixture was washed with 10% sodium hydroxide, water and brine; dried; and concentrated under vacuum to provide 0.25 g of crude product. This material was purified by column chromatography (silica gel eluting with dichloromethane) to provide 0.2 g of a solid. This solid was recrystallized from acetonitrile (30 mL) to provide 0.18 g of N′-[2-(4-amino-2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)ethyl]acetamide as a white powder, m.p.228-230° C. Analysis: Calculated for C17H22N6O: %C, 62.56; %H, 6.79; %N, 25.75; Found: %C, 62.50; %H, 6.59; %N, 26.04. HRMS (EI) calcd for C22H26N6O2 (M+) 326.1855, found 326.1846

reactant | acetyl chloride | 0.7 mmole, 50 μL | C(C)(=O)Cl | C2H3ClO
reactant | 2-(4-amino-2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)ethaneamine | 0.7 mmol, 0.2 g | NC1=NC=2C=CC=NC2C2=C1N=C(N2CCN)CCCC | C15H20N6
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | N1-[2-(4-Amino-2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)ethyl]acetamide | 0.2 g | NC1=NC=2C=CC=NC2C2=C1N=C(N2CCNC(C)=O)CCCC | C17H22N6O
